US07674795B2
In a 250 ml three-necked flask under an argon atmosphere, 1 g of 3-methoxy-1-propanol in 20 ml of tetrahydrofuran are cooled to 0° C. using an ice bath and then 450 mg of sodium hydride at 50% in liquid petroleum jelly are introduced in fractions. After stirring for 15 minutes at 0° C., add, over 5 minutes, a solution of 1.5 g of 4,5-difluoro-2-nitroaniline in 20 ml of tetrahydrofuran and then heat in the region of 70° C. for 1 hour 30 minutes. The reaction mixture is poured into 200 ml of water, and extracted with three times 50 ml of ethyl acetate. The combined organic phases are dried over magnesium sulphate and brought to dryness under reduced pressure. After purification by flash chromatography on silica gel (15-20 μm), eluting with a mixture of cyclohexane and ethyl acetate (80/20 by volume), in this way we obtain 1 g of 4-fluoro-5-(3-methoxypropoxy)-2-nitrophenylamine, in the form of a red solid, which is used as it is in the following stage, with the following characteristic:

reactant | 3-methoxy-1-propanol | 1 g | COCCCO | C4H10O2
reactant | sodium hydride | 450 mg | [H-].[Na+]
reactant | 4,5-difluoro-2-nitroaniline | 1.5 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-fluoro-5-(3-methoxypropoxy)-2-nitrophenylamine | 1 g | FC1=CC(=C(C=C1OCCCOC)N)[N+](=O)[O-] | C10H13FN2O4
